US06511995B1
Synthesis of 3-benzoyloxy-7-[(5-nitro-2-pyridinyl)oxy]-1H-indene
To 500 mg of 3-acetyloxy-7-[(5-nitro-2-pyridinyl)oxy]-1H-indene, 5 ml of benzoyl chloride and 15 mg of p-toluenesulfonic acid were added and the mixture was stirred at 100° C. After 1.5 hours, ethyl acetate was added to the reaction solution and the solution was washed in turn with a saturated sodium hydrogencarbonate solution and a saturated sodium chloride solution. The solution extracted with ethyl acetate was dried over anhydrous magnesium sulfate and the solvent was distilled off. The resulting residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate (10:1)) to obtain 130 mg of the titled compound as a white powder.

reactant | 3-acetyloxy-7-[(5-nitro-2-pyridinyl)oxy]-1H-indene | 500 mg | C(C)(=O)OC1=CCC2=C(C=CC=C12)OC1=NC=C(C=C1)[N+](=O)[O-] | C16H12N2O5
reactant | benzoyl chloride | 5 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | p-toluenesulfonic acid | 15 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-benzoyloxy-7-[(5-nitro-2-pyridinyl)oxy]-1H-indene | 130 mg | C(C1=CC=CC=C1)(=O)OC1=CCC2=C(C=CC=C12)OC1=NC=C(C=C1)[N+](=O)[O-] | C21H14N2O5
